US05981572
1-Chloro-4-(2,2-diethoxy-ethoxy)-2-methyl-benzene
A mixture of 5-chloro-4-methyl-benzofuran with 5-chloro-6-methyl-benzofuran (19.6 g), N-bromosuccinimide (23 g) and benzoyl peroxide (160 mg) in carbon tetrachloride (350 ml) was heated under reflux under a 200 W lamp for 36 h. The cooled mixture was filtered through hyflo and the filtrate evaporated to give the title compound as a dark oil (28.8 g)

reactant | 5-chloro-4-methyl-benzofuran | ClC=1C=CC2=C(C=CO2)C1C | C9H7ClO
reactant | 5-chloro-6-methyl-benzofuran | 19.6 g | ClC=1C(=CC2=C(C=CO2)C1)C | C9H7ClO
reactant | N-bromosuccinimide | 23 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 350 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 160 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 1-Chloro-4-(2,2-diethoxy-ethoxy)-2-methyl-benzene | 28.8 g | ClC1=C(C=C(C=C1)OCC(OCC)OCC)C | C13H19ClO3
